US08008295B2
Step B: 5-Bromo-3-{[(5-tert-butoxy-5-oxopentyl)amino]sulfonyl}-1H-indole-2-carboxylic acid
To a solution of ethyl-5-bromo-3-{[(5-tert-butoxy-5-oxopentyl)amino]sulfonyl}-1-(phenylsulfonyl)-1H-indole-2-carboxylate (63 mg, 0.98 mmol) in 2 mL of 3:1 THF/water was added NaOH (2 pellets). After stirring at room temperature for 6 hours, another portion of NaOH was added. After 16 hours, the reaction was partitioned between 3N HCl and dichloromethane. The aqueous phase was extracted three times with dichloromethane, and the combined organic phases were dried (Na2SO4), filtered, and concentrated in vacuo to give the titled product as a white foam. ESI+ MS: 419 [M-CH2═CMe2]+.

reactant | ethyl-5-bromo-3-{[(5-tert-butoxy-5-oxopentyl)amino]sulfonyl}-1-(phenylsulfonyl)-1H-indole-2-carboxylate | 0.98 mmol, 63 mg | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1S(=O)(=O)NCCCCC(=O)OC(C)(C)C)Br)S(=O)(=O)C1=CC=CC=C1 | C26H31BrN2O8S2
reactant | NaOH | [OH-].[Na+]
solvent | THF water | 2 mL | C1CCOC1.O
product | 5-Bromo-3-{[(5-tert-butoxy-5-oxopentyl)amino]sulfonyl}-1H-indole-2-carboxylic acid | BrC=1C=C2C(=C(NC2=CC1)C(=O)O)S(=O)(=O)NCCCCC(=O)OC(C)(C)C | C18H23BrN2O6S
